US05416089
Part A: 6-Nitrophenanthrene-1,10-dicarboxylic Anhydride
As described in example 50, the following compounds were prepared from dimethyl homophthalate and 2-bromo-4-nitrobenzaldehyde (Dandegaonker, S. H. J. Ind. Chem. Soc. 1969, 46, 148):

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | 2-bromo-4-nitrobenzaldehyde | BrC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO3
product | 6-Nitrophenanthrene-1,10-dicarboxylic Anhydride | [N+](=O)([O-])C=1C=C2C=3C=CC=C4C3C(=CC2=CC1)C(=O)OC4=O | C16H7NO5
